US05455258
Ethyl 2-[[4-methoxybenzenesulfonyl](benzyl)amino]acetate (11.20 g, 30.9 mmol) is dissolved in methanol (100 mL). To this solution is added hydroxylamine hydrochloride (4.31 g, 62.0 mmol), followed by the addition of sodium methoxide, freshly prepared from sodium (2.14 g, 93.0 mmol) dissolved in methanol (55 mL). The reaction is stirred overnight at room temperature. The reaction is worked up by partitioning between dilute hydrochloric acid (pH=~3) and ethyl acetate. The aqueous phase is extracted well with ethyl acetate, the combined organic layers are dried (Na2SO4), and the solvent is evaporated. The product is purified by silica gel chromatography (75% ethyl acetate/hexane) to give N-hydroxy-2-[[4-methoxybenzenesulfonyl](benzyl)amino]acetamide, m.p. 112°-114° C.

reactant | Ethyl 2-[[4-methoxybenzenesulfonyl](benzyl)amino]acetate | 30.9 mmol, 11.20 g | COC1=CC=C(C=C1)S(=O)(=O)N(CC(=O)OCC)CC1=CC=CC=C1 | C18H21NO5S
reactant | hydroxylamine hydrochloride | 62.0 mmol, 4.31 g | Cl.NO
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 93.0 mmol, 2.14 g | [Na] | Na
solvent | methanol | 100 mL | CO | CH4O
solvent | methanol | 55 mL | CO | CH4O
product | N-hydroxy-2-[[4-methoxybenzenesulfonyl](benzyl)amino]acetamide | ONC(CN(CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC)=O | C16H18N2O5S
